US04171367
N(1,3-Dimethyl-5-pyrazolyl)-S-methyl isothiourea hydroiodide
(1,3-Dimethyl-5-pyrazolyl) thiourea (17.0 g) and 14.2 g methyl iodide were reacted as described in Example V to give 18.0 g. of the product, mp 158°-161° C.

reactant | (1,3-Dimethyl-5-pyrazolyl) thiourea | 17.0 g | CN1N=C(C=C1NC(=S)N)C | C6H10N4S
reactant | methyl iodide | 14.2 g | CI | CH3I
product | N(1,3-Dimethyl-5-pyrazolyl)-S-methyl isothiourea hydroiodide | I.CN1N=C(C=C1NC(SC)=N)C | InChI=1S/C7H12N4S.HI/c1-5-4-6(11(2)10-5)9-7(8)12-3;/h4H,1-3H3,(H2,8,9);1H
